US05510366
(1) 2-Benzylamino-4-benzyloxy-1-methylbenzene
100.0 g (2.56 mol) of sodium amide was added to 700 g (6.53 mol) of benzylamine under an argon atmosphere, and the mixture was stirred for 10 minutes at 60° C. A solution of 222.20 g (0.801 mol) of 1-benzyloxy-2-bromo-4-methylbenzene was dissolved in 400 ml of tetrahydrofuran was added dropwise to the above mixture over 50 minutes. The mixture was stirred for 50 minutes while maintaining the temperature at 60° C. Methanol was added under cooling with ice, and the mixture was poured into ice water. The reaction mixture was extracted with ethyl acetate-water, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The residue obtained by evaporating the solvent was purified by column chromatography (silica gel, 10:1 mixture of n-hexane and ethyl acetate). The crude product thus obtained was recrystallized from n-hexane to obtain 175.80 g (yield: 72.3%) of the title compound as colorless needles.

reactant | sodium amide | 2.56 mol, 100.0 g | [NH2-].[Na+]
reactant | benzylamine | 6.53 mol, 700 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-benzyloxy-2-bromo-4-methylbenzene | 0.801 mol, 222.20 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)Br | C14H13BrO
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-Benzylamino-4-benzyloxy-1-methylbenzene | 175.80 g, yield: 72.3% | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)OCC1=CC=CC=C1)C | C21H21NO
